US05395946
A solution of 62 g of 2-cyanomethyl-1,3-bis(tosyloxy)propane in 250 ml DMSO is added dropwise to a stirred solution of 36 g potassium thioacetate in 200 ml of DMSO. After stirring for one hour and adding additional DMSO, the mixture is poured into ice/water. Extraction with diethylether yields a colored organic layer which is washed successively with aqueous NaOH, water and saturated NaCl solution until neutral. Drying and evaporating yields the desired 2-cyanomethyl-1,3-bis(acetylthio)propane as a slightly yellow liquid; b.p. 146°-150° C./0.50.1 mm Hg; yield 20 g. Identification by IR and NMR.

reactant | 2-cyanomethyl-1,3-bis(tosyloxy)propane | 62 g | C(#N)CC(COS(=O)(=O)C1=CC=C(C)C=C1)COS(=O)(=O)C1=CC=C(C)C=C1 | C19H21NO6S2
reactant | potassium thioacetate | 36 g | C(C)(=S)[O-].[K+]
solvent | DMSO | 250 ml | CS(=O)C | C2H6OS
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
product | 2-cyanomethyl-1,3-bis(acetylthio)propane | C(#N)CC(CSC(C)=O)CSC(C)=O | C9H13NO2S2
